US06821984B2
1-(2-Chloro-4,6-dimethylphenyl)-2-methylsulfanyl-1,4,5,6-tetrahydropyridine-3-carboxylic acid methyl ester (4.99 g), methylhydrazine (16.4 mL), p-toluenesulfonic acid monohydrate (2.91 g), and methanol (75 mL) were combined in a glass vessel sealed with a Telfon™ screw cap. The reaction mixture was stirred in a 130° C. oil bath for 24 h, then cooled to room temperature and concentrated on the rotary evaporator. The residue was chromatographed on silica gel using a methanol/dichloromethane gradient to give 3.21 g of 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo-[3,4-b]pyridin-3-one, mp 95.9-99.9° C.

reactant | 1-(2-Chloro-4,6-dimethylphenyl)-2-methylsulfanyl-1,4,5,6-tetrahydropyridine-3-carboxylic acid methyl ester | 4.99 g | COC(=O)C1=C(N(CCC1)C1=C(C=C(C=C1C)C)Cl)SC | C16H20ClNO2S
reactant | methylhydrazine | 16.4 mL | CNN | CH6N2
reactant | p-toluenesulfonic acid monohydrate | 2.91 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 75 mL | CO | CH4O
product | 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo-[3,4-b]pyridin-3-one | 3.21 g | ClC1=C(C(=CC(=C1)C)C)N1C2=C(CCC1)C(N(N2)C)=O | C15H18ClN3O
